US07179823B1
A mixture of ethyl 3-[3-benzyloxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (380 mg), 1 N aqueous sodium hydroxide solution (3 ml), tetrahydrofuran (3 ml), and ethanol (3 ml) was stirred at room temperature for one hour, and then diluted with 1 N hydrochloric acid (5 ml) to give colorless crystals, which were collected by filtration. This was recrystallized from ethyl acetate-hexane, to yield 3-[3-benzyloxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (300 mg, yield: 83%). Melting point: 108–109° C.

reactant | ethyl 3-[3-benzyloxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 380 mg | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H33N3O5
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 5 ml | Cl | ClH
product | 3-[3-benzyloxy-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 300 mg, yield: 83% | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C31H29N3O5
